US07465795B2
4-amino-N-cyclobutyl-7-fluoro-8-(2-methoxy-5-methyl-phenyl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide (175 mg) and 2-methoxy-5-methyl-phenyl boronic acid (187 mg) were reacted to afford the title compound (128 mg) as white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.18 (d, 1H), 8.50 (m, 1H), 7.71 (m, 1H), 7.24 (m, 1H), 7.07 (m, 1H), 7.03 (m, 1H), 4.49 (m, 1H), 3.61 (s, 3H), 2.29 (s, 3H), 2.26-2.10(m, 4H), 1.72-1.62 (m, 2H). MS APCI, m/z=381 (M+H).

reactant | 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide | 175 mg | NC1=C(N=NC2=C(C(=CC=C12)F)Br)C(=O)NC1CCC1 | C13H12BrFN4O
reactant | 2-methoxy-5-methyl-phenyl boronic acid | 187 mg | COC1=C(C=C(C=C1)C)B(O)O | C8H11BO3
product | 4-amino-N-cyclobutyl-7-fluoro-8-(2-methoxy-5-methyl-phenyl)cinnoline-3-carboxamide | 128 mg | NC1=C(N=NC2=C(C(=CC=C12)F)C1=C(C=CC(=C1)C)OC)C(=O)NC1CCC1 | C21H21FN4O2
